US04851519
0.80 g of 5-acetyl-5'-azido-2',5'-dideoxyuridine was dissolved in 100 ml of methanol and 10 ml of 0.27M hydrogen chloride in methanol were added. 0.1 g of 5% palladium-on-charcoal catalyst was added as a slurry in ethanol and the mixture was hydrogenated for 3 hours at room temperature and under atmospheric pressure. The catalyst was removed by filtration and the filtrate was evaporated to give 0.91 g of hygro-scopic 5-acetyl-5'-amino-2',5'-dideoxyuridine hydrochloride of melting point 73°-85° C. (decomposition).

reactant | 5-acetyl-5'-azido-2',5'-dideoxyuridine | 0.80 g | C(C)(=O)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CN=[N+]=[N-])O2)C1)=O)=O | C11H13N5O5
reactant | hydrogen chloride | 0.27M, 10 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.1 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-acetyl-5'-amino-2',5'-dideoxyuridine hydrochloride | 0.91 g | Cl.C(C)(=O)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CN)O2)C1)=O)=O | InChI=1S/C11H15N3O5.ClH/c1-5(15)6-4-14(11(18)13-10(6)17)9-2-7(16)8(3-12)19-9;/h4,7-9,16H,2-3,12H2,1H3,(H,13,17,18);1H/t7-,8+,9+;/m0./s1
